US07425641B2
a. 2-[5-(N-benzoyl-carbamimidoyl)-2-benzyloxy-phenyl]-N-[3-methyl-4-(pyrrolidin-1-yl-carbonyl)-phenyl]-acetamide
350 mg (0.69 mmol) of 2-(5-carbamimidoyl-2-benzyloxy-phenyl)-N-[3-methyl-4-(pyrrolidin-1-yl-carbonyl)-phenyl]-acetamide-hydrochloride are suspended in 40 ml of methylene chloride and combined with 1.0 ml of triethylamine and 300 mg (1.3 mmol) of 4-nitrophenylbenzoate. The reaction mixture is refluxed for 4 hours. After the addition of 100 ml of saline solution the aqueous phase is extracted 3× with methylene chloride. The combined organic phases are dried over sodium sulphate and concentrated by evaporation.

reactant | 2-(5-carbamimidoyl-2-benzyloxy-phenyl)-N-[3-methyl-4-(pyrrolidin-1-yl-carbonyl)-phenyl]-acetamide-hydrochloride | 0.69 mmol, 350 mg | Cl.C(N)(=N)C=1C=CC(=C(C1)CC(=O)NC1=CC(=C(C=C1)C(=O)N1CCCC1)C)OCC1=CC=CC=C1
reactant | triethylamine | 1.0 ml | C(C)N(CC)CC | C6H15N
reactant | 4-nitrophenylbenzoate | 1.3 mmol, 300 mg | [N+](=O)([O-])C1=CC=C(C=C1)C1=C(C(=O)[O-])C=CC=C1
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 2-[5-(N-benzoyl-carbamimidoyl)-2-benzyloxy-phenyl]-N-[3-methyl-4-(pyrrolidin-1-yl-carbonyl)-phenyl]-acetamide | C(C1=CC=CC=C1)(=O)NC(=N)C=1C=CC(=C(C1)CC(=O)NC1=CC(=C(C=C1)C(=O)N1CCCC1)C)OCC1=CC=CC=C1 | C35H34N4O4
